US05053072
2,6-Dichlorophenyl N-[(4,6-dimethoxypyrimidin-2-yl)carbonyl]sulfamate
2.4 g of 2,6-dichlorophenyl sulfamate are added in portions at 0° C. to 2° C. to a mixture of 2.3 g of dicyclohexylcarbodiimide, 120 mg of 4-dimethylaminopyridine and 2.2 g of 4,6-dimethoxypyrimidine-2-carboxylic acid in 80 ml of absolute dichloromethane, and stirring is continued for 0.5 hour at 0° C. and 3 hours at room temperature. The mixture is filtered off with suction, the organic phase is washed with 100 ml of 1 N hydrochloric acid and then with water and dried over sodium sulfate. The solvent is distilled off, and the residue is recrystallized from diisopropyl ether. This gives 3.2 g of 2,6-dichlorophenyl N-[(4,6-dimethoxypyrimidin-2-yl)carbonyl]sulfamate of melting point 136°-139° C.

reactant | 2,6-dichlorophenyl sulfamate | 2.4 g | S(N)(OC1=C(C=CC=C1Cl)Cl)(=O)=O | C6H5Cl2NO3S
reactant | dicyclohexylcarbodiimide | 2.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4,6-dimethoxypyrimidine-2-carboxylic acid | 2.2 g | COC1=NC(=NC(=C1)OC)C(=O)O | C7H8N2O4
catalyst | 4-dimethylaminopyridine | 120 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 2,6-Dichlorophenyl N-[(4,6-dimethoxypyrimidin-2-yl)carbonyl]sulfamate | COC1=NC(=NC(=C1)OC)C(=O)NS(OC1=C(C=CC=C1Cl)Cl)(=O)=O | C13H11Cl2N3O6S
